US06388084B1
N-[[2-(1-methylethyl)-6-methylphenyl]carbonyl]-4-[ 1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine was prepared from 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester and 2-(1-methylethyl)-6-methylbenzoyl chloride using the general procedures described in example 33. ES-HRMS m/e calcd for C28H29F3N2O4 (M+Na) 537.1972, found 537.1977.

reactant | 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C18H19F3N2O3
reactant | 2-(1-methylethyl)-6-methylbenzoyl chloride | CC(C)C1=C(C(=O)Cl)C(=CC=C1)C | C11H13ClO
product | N-[[2-(1-methylethyl)-6-methylphenyl]carbonyl]-4-[ 1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | CC(C)C1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)C(=O)O | C28H29F3N2O4
